US05990105
0.25 g (0.001 mol) of 6-bromo-4-nitropyridine-2-carboxamide was dissolved in 5 ml of dimethylformamide, treated with 0.19 g (0.001 mol) of 4-nitrothiophenol potassium salt and stirred at room temperature for 18 hrs. The reaction mixture was partitioned in water and ethyl acetate and the organic phase was washed with water and sat. sodium chloride solution, dried over MgSO4 and concentrated in a vaccum. The residue was chromatographed on silica gel with ethyl acetate/hexane 1:1. There was obtained 0.31 g (86%) of 6-bromo-4-(4-nitrophenylsulphanyl)-pyridine-2-carboxamide as yellowish crystals; m.p.: 192-194° C. (dec.).

reactant | 6-bromo-4-nitropyridine-2-carboxamide | 0.001 mol, 0.25 g | BrC1=CC(=CC(=N1)C(=O)N)[N+](=O)[O-] | C6H4BrN3O3
reactant | 4-nitrothiophenol potassium salt | 0.001 mol, 0.19 g | [K].[N+](=O)([O-])C1=CC=C(C=C1)S
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 6-bromo-4-(4-nitrophenylsulphanyl)-pyridine-2-carboxamide | 0.31 g, 86% | BrC1=CC(=CC(=N1)C(=O)N)SC1=CC=C(C=C1)[N+](=O)[O-] | C12H8BrN3O3S
